US05750531
Synthesis of (S)-5,6-dimethyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(1.04 ml, 9.6 mmol) was added to a mixture solution of (S)-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.4 g, 4.8 mmol) and dimethylformamide(10 ml), 0.70 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 9.6 mmol, 1.04 ml | CNC1=CC=CC=C1 | C7H9N
reactant | (S)-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 4.8 mmol, 1.4 g | CC=1C(=NC(=NC1C)Cl)N1[C@H](C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-5,6-dimethyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.70 g, Yield: 37% | Cl.CC=1C(=NC(=NC1C)N(C)C1=CC=CC=C1)N1[C@H](C2=CC=CC=C2CC1)C | InChI=1S/C23H26N4.ClH/c1-16-17(2)24-23(26(4)20-11-6-5-7-12-20)25-22(16)27-15-14-19-10-8-9-13-21(19)18(27)3;/h5-13,18H,14-15H2,1-4H3;1H/t18-;/m0./s1
